US06310211B1
N(6-Chloro-2-benzothiazolyl)-8-hydroxy-7-quinolinecarboxamide (Formula I-7) Refer to Chart I
A solution of 8-hydroxyquinoline-7-carboxylic acid (0.30 g) of Preparation 1 in 75 mL xylenes is heated to reflux. PCl3 (0.07 mL) is added dropwise and the mixture stirred for 15 minutes. 2-Amino-6-chlorobenzothiazole (0.31 g) is added in one portion and the reaction refluxed overnight. The reaction is cooled to room temperature and H2O is added to quench excess PCl3. After stirring the solution for 30 minutes, a yellow solid is filtered, dried, and recrystallized from DMSO to give the title product (0.31 g).

reactant | 8-hydroxyquinoline-7-carboxylic acid | 0.30 g | OC=1C(=CC=C2C=CC=NC12)C(=O)O | C10H7NO3
reactant | PCl3 | 0.07 mL | P(Cl)(Cl)Cl | Cl3P
reactant | 2-Amino-6-chlorobenzothiazole | 0.31 g | NC=1SC2=C(N1)C=CC(=C2)Cl | C7H5ClN2S
solvent | H2O | O | H2O
product | N(6-Chloro-2-benzothiazolyl)-8-hydroxy-7-quinolinecarboxamide | 0.31 g | ClC1=CC2=C(N=C(S2)NC(=O)C2=CC=C3C=CC=NC3=C2O)C=C1 | C17H10ClN3O2S
